US05962462
Step 1: 4-(2,5-Difluorophenyl)-4-methoxycarbonyl-1-methylpiperidine
NaH (158 mg, 6.56 mmol) was added to 4-(2,5-difluorophenyl)-4-hydroxymethyl-1-methylpiperidine (1.45 g, 6.56 mmol) in DMF (20 mL). The slurry was heated to 90° C. for 6 h. The reaction was diluted with hexane (200 mL), washed with water (200 mL), brine (50 mL), dried (MgSO4), and concentrated to yield 1.21 g (92%) of the title compound as a white crystalline solid; 1H NMR (400 MHz, CDCl3) δ 6.98 (dd, 1H), 6.54 (dt, 1H), 6.48 (dd, 1H), 4.37 (s, 2H), 2.84 (m, 2H), 2.31 (s, 3H), 1.97 (4H, pentuplet), 1.71 (m, 2H) ppm.

reactant | NaH | 6.56 mmol, 158 mg | [H-].[Na+]
reactant | 4-(2,5-difluorophenyl)-4-hydroxymethyl-1-methylpiperidine | 6.56 mmol, 1.45 g | FC1=C(C=C(C=C1)F)C1(CCN(CC1)C)CO | C13H17F2NO
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | hexane | 200 mL | CCCCCC | C6H14
product | 4-(2,5-Difluorophenyl)-4-methoxycarbonyl-1-methylpiperidine | 1.21 g, 92% | FC1=C(C=C(C=C1)F)C1(CCN(CC1)C)C(=O)OC | C14H17F2NO2
